US07241791B2
Step 1: 7-chloro-1-cyclohexyl-3-(4-methoxyphenyl)-1H-indazole
Prepared according to Method C step A (3-chloro-2-fluorophenyl)-(4-methoxyphenyl)-methanone (0.55 g, 1.85 mmol), cyclohexylhydrazine hydrochloride (0.42 g, 2.7 mmol) and DMAP (0.225 g, 1.85 mmol) to give the product (0.58 g) as a yellow oil.

reactant | (3-chloro-2-fluorophenyl)-(4-methoxyphenyl)-methanone | 1.85 mmol, 0.55 g | ClC=1C(=C(C=CC1)C(=O)C1=CC=C(C=C1)OC)F | C14H10ClFO2
reactant | cyclohexylhydrazine hydrochloride | 2.7 mmol, 0.42 g | Cl.C1(CCCCC1)NN
catalyst | DMAP | 1.85 mmol, 0.225 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-chloro-1-cyclohexyl-3-(4-methoxyphenyl)-1H-indazole | 0.58 g | ClC=1C=CC=C2C(=NN(C12)C1CCCCC1)C1=CC=C(C=C1)OC | C20H21ClN2O
